Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Amiodarone
 
Attending: ___.
 
Chief Complaint:
Fevers/Cough
 
Major Surgical or Invasive Procedure:
There were no major surgical or invasive procedures during 
hospitalization. 

 
History of Present Illness:
___ male with complex medical history including A. fib 
on Coumadin, end-stage renal disease (multifactiral secondary to 
hypertension and obstructive nephropathy) on HD 
___ since ___, hypertension, CHF, Gout, 
PVD, cricopharyngeal dysphagia ___ neck fracture, history of 
autonomic dysfunction, persistent volume-sensitive BP 
regulation, presents with generalized weakness and fevers found 
to have CXR with left lower lobe haziness suspected to be due to 
infection. He notes he has also been experiencing cough and 
lethargy. These symptoms began approximately ___ days ago, and 
acutely worsened over the past 24 hours.

As noted above, patient has persistent volume-sensitive BP 
regulation and has normal blood pressures in the ___. Over 
the past three days he has been noted to have BP readings in the 
___ intermittently. In addition to the symptoms previous 
mentioned, he has had decreased appetite, myalgias, nausea, 
weakness. He has not had any vomiting but has noted generalized 
abdominal discomfort. He subsequently presented to ___ for 
further evaluation and management.

Of note, the patient was recently admitted to ___ from 
___ for Afib with RVR in the setting of missed propranolol 
prior to HD. Propranolol was uptitrated and the patient was 
started on midodrine. 

In the ED, initial vitals were:  97.8 137, 78/50, 16 95% on room 
air Tmax during his time in the emergency department was 100.8. 
In ED had episode of atrial fibrillation with RVR which 
responded to IVF.   
- labs notable for WBC 12.3, Hgb/Hct 8.7/26.9, Plt 166, AST/ALT 
WNL, AP 248, Lip 104, Tbil 0.8, CK 42, MB 1, BUN/Cr 50/6.6, Trop 
0.23, lactate 2.7, Flu swab negative, INR 1.4
- pt was given:
___ 11:41 IVF 1000 mL NS 250 mL 
___ 13:30 IV CefePIME 2 g 
___ 14:01 IV Vancomycin 1000 mg   
___ 17:42 PR Acetaminophen 650 mg
- Pt was seen by nephrology in the ED: no acute need for HD, 
plan for routine HD on ___
- CXR obtained in the ED showed "bibasilar opacities likely 
representing atelectasis. Increasing left lower lobe opacity may 
represent a developing pneumonia. 
- CT ABD/PELVIS sequela of probable chronic aspiration is noted 
in the lung bases,bilaterally. 2. The bladder wall is 
chronically thickened and mucosa appears chronically shaggy may 
represent chronic urinary tract infection. Air is noted within 
the bladder correlation with prior instrumentation is 
recommended. 
 
On the floor, patient feels thirsty. He denies any fevers, 
chills, myalgias, nausea, or vomiting. He is interested in 
having a cup of water. 

 
Past Medical History:
ESRD on HD ___, since ___, HTN/T2DM/Obstructive 
Nephropathy)
CHF ___: LVEF= ___ with chronic transudative pleural 
effusions)
AFib on warfarin, propanolol
HTN
NIDDM - controlled with weight loss
Neurogenic Bladder
Gout
PVD
Hypothyroidism
Cricopharyngeal dysphagia ___ neck fracture
Sleep Apnea on CPAP
Anemia of chronic disease ___ renal dysfunction
Autonomic dysfunction - previously on midodrine and 
fludrocortisone
Chronic osteomyelitis ___ diagnosed by bone fragment biospy 
now s/p vanco/ceftaz
Hypothyroidism
___ buttock hematoma (93)
Left arm radiocephalic AV fistula creation (___)
Superficialization of left arm AV fistula (___)
Repair of left arm arteriovenous fistula aneurysm (___)
Repair of LUE AVF aneurysm (___)
PleurX® pleural drainage tube (___)
HCAP (___)
Left calcaneal osteomyelitis ___ diagnosed by MRI) to 
receive 6 week course vancomycin/ceftazidime. 
 
Social History:
___
Family History:
His grandparents and father had hypertension and diabetes.
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vital Signs: 97.6, 98/53, 82, 20, 100% on 2L.   
General: Appears fatigued but lying in bed comfortably in NAD, 
breathing non-labored. 
HEENT: Sclera anicteric, dry mucous membranes, no elevated JVP. 
CV: Irregularly irregular rhythm, normal heart rate, S1 and S2 
present, soft aortic flow murmur. 
Lungs: Decreased breath sounds at left lower base, minimal 
rhonchi and rales bilaterally.   
Abdomen: full abdomen, non-tender, non-distened, no rebound or 
guarding.  
GU: No foley  
Ext: Limited mobility in extremities. Able to move arms and 
legs. Hands minimally contracted. Has chronic wounds on 
bilateral feet, currently wrapped, clean, dry and intact. 
Extremities with plantar swelling. Onychomycosis, 
onychogryphosis. LUE AVF + bruit and thrill 
Pulses: 1+ in DP's.

DISCHARGE PHYSICAL EXAM
=======================
Vitals: 97.8, 102/59, 80, 20, 98% on 2L (85-90% on RA).
General: At dialysis at this time, lying supine undergoing 
dialysis, breathing non-labored, no cough during examination.  
HEENT: Sclera anicteric, moist mucous membranes, no elevated 
JVP. 
CV: Irregularly irregular rhythm, normal heart rate, S1 and S2 
present, soft aortic flow murmur. 
Lungs: Bibasilar crackles although no wheezes.
Abdomen: soft, non-tender, non-distended, no rebound or 
guarding. 
GU: No foley  
Ext: Has chronic wounds on bilateral feet, currently wrapped, 
clean, dry and intact. No lower extremity edema. Onychomycosis, 
onychogryphosis. LUE AVF attached to dialysis machine. Right and 
left hands contracted. Able to voluntarily move all extremities. 

Pulses: 1+ in DP's.
 
Pertinent Results:
ADMISSION LABS
==============
___ 11:45AM BLOOD WBC-12.3*# RBC-2.67* Hgb-8.7* Hct-26.9* 
MCV-101* MCH-32.6* MCHC-32.3 RDW-17.6* Plt ___
___ 11:45AM BLOOD Neuts-75.6* Lymphs-11.6* Monos-9.0 
Eos-3.0 Baso-0.9
___ 11:45AM BLOOD Glucose-135* UreaN-50* Creat-6.6* Na-139 
K-4.9 Cl-102 HCO3-22 AnGap-20
___ 06:19AM BLOOD Calcium-9.6 Phos-3.8 Mg-2.1

DISCHARGE LABS
==============
___ 06:19AM BLOOD WBC-9.0 RBC-2.61* Hgb-8.3* Hct-26.0* 
MCV-100* MCH-31.6 MCHC-31.7 RDW-16.8* Plt ___
___ 06:19AM BLOOD Plt ___
___ 06:19AM BLOOD Glucose-90 UreaN-30* Creat-6.3*# Na-139 
K-4.2 Cl-99 HCO3-27 AnGap-17
___ 06:19AM BLOOD Calcium-9.6 Phos-3.8 Mg-2.1

COAGULATION STUDIES
===================
___ 11:45AM BLOOD ___ PTT-33.6 ___
___ 07:00AM BLOOD ___ PTT-35.0 ___
___ 07:40AM BLOOD ___ PTT-36.5 ___
___ 02:44PM BLOOD ___ PTT-38.2* ___
___ 06:37AM BLOOD ___ PTT-42.2* ___

LIVER FUNCTION TESTS
====================
___ 11:45AM BLOOD ALT-32 AST-36 CK(CPK)-42* AlkPhos-248* 
TotBili-0.8
___ 11:45AM BLOOD Lipase-104*

CARDIOLOGY TESTS
================
___ 11:45AM BLOOD CK-MB-1
___ 11:45AM BLOOD cTropnT-0.23*
___ 07:00AM BLOOD CK-MB-1 cTropnT-0.25*

LACTATE
=======
___ 11:52AM BLOOD Lactate-2.7*
___ 02:25PM BLOOD Lactate-0.7

INFLAMMATORY MARKERS
====================
___ 06:37AM BLOOD CRP-68.7*
___ 06:37
SED RATE
Test                          Result              Reference 
Range/Units
SED RATE BY MODIFIED          >130  H             < OR = 20 mm/h
___   

MICROBIOLOGY
============
___ 01:40PM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 11:45AM BLOOD CULTURES X 2: NO GROWTH (FINAL)

IMAGING
=======
___: CHEST (PORTABLE AP)
FINDINGS: 
AP portable semi upright view of the chest. Lung volumes are 
markedly low
which limits assessment. There is subtle increase in left basal 
opacity which could represent pneumonia. Mild bibasilar 
atelectasis also likely present. No overt edema. No large 
effusion or pneumothorax. Heart size remains prominent. 
Mediastinal contour is unchanged. A vascular stent projects over 
the left axilla. Bony structures are intact.
 
IMPRESSION: 
Bibasilar opacities likely represent atelectasis. Increasing 
left lower lobe opacity, may represent a developing pneumonia.

___: CT ABDOMEN AND PELVIS WITH CONTRAST
IMPRESSION: 
1. Sequela of probable chronic aspiration is noted in the lung 
bases,
bilaterally.
2. The bladder wall is chronically thickened and the mucosa 
appears shaggy,
which may represent chronic urinary tract infection. Air is 
noted within the bladder and correlation with prior 
instrumentation is recommended.
3. Multiple, bilateral renal cysts. One cyst at the inferior 
pole of the right kidney is hyperdense and a nonemergent MRI 
should be considered for further evaluation.

___: MRI FOOT WITHOUT CONTRAST (LEFT)
IMPRESSION:
1. Soft tissue changes at the heel with underlying marrow signal 
changes at
the posterior calcaneus consistent with osteomyelitis.
2. No soft tissue fluid collection seen.
3. Edema and linear low signal in third metatarsal suggestive of 
fracture.
This could be confirmed on radiograph.
4. Moderate midfoot degenerative change.

___: MRI FOOT WITHOUT CONTRAST (RIGHT)
IMPRESSION:
1. Skin ulcer over the lateral heel with subjacent soft tissue 
changes and
mild reactive marrow edema at the posterior lateral aspect of 
the calcaneus. In the absence of correlative low T1 signal this 
is more likely to be reactive marrow edema than osteomyelitis.
2. No fluid collection is seen.
3. Moderate midfoot arthritis as detailed above.
 
Brief Hospital Course:
___ male with complex medical history including A. fib 
on Coumadin, end-stage renal disease (multifactiral secondary to 
hypertension and obstructive nephropathy) on HD 
___ since ___, hypertension, CHF, Gout, 
PVD, cricopharyngeal dysphagia ___ neck fracture, history of 
autonomic dysfunction, persistent volume-sensitive BP 
regulation, presents with generalized weakness and fevers found 
to have CXR with left lower lobe pneumonia concerning for HCAP 
given his recent hospitalization and that he is on dialysis. 
During hospitalization, also noted to have osteomyelitis of the 
left calcaneus. 
 
#Healthcare Associated Pneumonia: Mr. ___ presented with 
fever, hypotension, cough, fatigue, leukocytosis (12.3), with 
CXR notable for a left lower lobe infiltrate. Given risk factors 
include HD as well as recent hospitalization (discharged 
___ as well as fact that he is on hemodialysis, he was 
treated with vancomycin and ceftazidime for healthcare 
associated pneumonia. Blood cultures on admission were negative. 
With treatment with vancomycin and ceftazidime, Mr. ___ 
energy improved, cough dissipated, and leukocytosis resolved. 
His oxygen was downtitrated to 1L of oxygen with plan for him to 
continue CPAP at home. He will continue vancomycin and 
ceftazidime for osteomyelitis (as noted below), thus covering a 
total HCAP regimen length.

# Left Calcaneual Osteomyelitis: Mr ___ has a history of 
chronic wounds on right and left calcaneus. He has been seen by 
wound care by Dr. ___ at ___. While 
hospitalized, he underwent an MRI of the feet which indicated 
"soft tissue changes at the heel with underlying marrow signal 
changes at the posterior calcaneus consistent with 
osteomeylitis." Given these findings, both Podiatry and 
Infectious Disease was consulted. Podiatry evaluated Mr. ___ 
and after discussion with him and given his multiple 
co-morbidities it was determined he did not want any aggressive 
intervention. Recommendation from Podiatry included "mulipodus 
splints for offloading bilateral heels. 
Santyl/Adaptic/4x4/Kerlix for bilateral heel wounds. No plan for 
biopsy or debridement was recommended given Mr. ___ desire 
to not want aggressive intervention. Infectious Disease also 
evaluated Mr. ___. Based on previous wound cultures from 
Podiatry (MRSA, Enterococcus, Proteus), and numerous 
co-morbidities, recommendation is to continue vancomycin and 
ceftazidime (both of which can be dosed during dialysis to 
complete a 6 week course for osteomyelitis (___). 
Per recommendations from ID, vancomycin will be dosed with 
dialysis, whereas ceftazidime will be dosed 2 grams after 
dialysis on ___, 2 grams after dialysis on ___, 3 
grams after dialysis on ___. During hospitalization, ESR 
was >130 and CRP was 68.7. Per recommendation from Infectious 
Disease, Mr. ___ require weekly ___ labs 
including CBC with diff, BUN/Cr, vancomycin trough, ESR, CRP. 
These will be drawn at dialysis sessions on ___ with 
results followed by Dr. ___. 

Mr. ___ has a ___ appointment with Dr. ___ 
with ___ Care at ___ on ___. 

#Left Mid to Distal Third Metatarsal Fracture: Noted on MRI of 
the left foot. After discussion with Dr. ___ further 
intervention given Mr. ___ baseline limited motility. He 
was seen by Physical Therapy with following recommendations: 
Continue to recommend daily OOB activity via Hoyer lift to/from
chair. Recommend waffle boots for bil ulcers. Recommend OOB to 
chair for no more than 1 hour given risk for skin breakdown and 
patient's inability to independently weight.
Continued wound care f/u. Patient is high Delirium risk; please 
follow delirium prevention protocol. Recommend non-weight 
bearing on left lower extremity and pivot in multi-podus splint 
on right. 

# Tropenemia: Initial EKG showed Afib with RVR and lateral ST 
depressions with troponin elevation to 0.23 (baseline 0.08) 
likely in the setting of HCAP/sepsis/ESRD. CM-MB flat. Repeat 
troponin 0.25 with CK-MB 1. Likely related to ESRD.    

# Atrial Fibrillation: In the past, Mr. ___ has had multiple 
admissions for atrial fibrillation with RVR associated with 
hypotension. CHADS-2 4. He was anti-coagulated with warfarin 
during hospitalization with warfarin 2 mg PO every other day, 
and warfarin 3 mg PO every other day. He was rate controlled 
with propanolol LA 120 mg PO daily. INR at the time of discharge 
was 2.4. 

# Hypotension: Mr. ___  with long history of hypotension. He 
is sensitive to fluid shifts during dialysis. He also has 
autonomic instability. Baseline SBP between 90-110. He was 
continued on midodrine 10 mg QAM and midodrine 7.5 mg QPM. 
Systolic blood pressure remained at baseline in the mid-90s. 

# ?Aspiration: CT abdomen and pelvis performed during 
hospitalization showed sequela of probable chronic aspiration 
noted in the lung bases bilaterally. He was seen by speech and 
swallow who noted increased work of breathing when attempting to 
swallow. After discussion with Dr. ___ swallow was 
deferred. Recommended diet was changed to nectar-thick liquids, 
soft solids and pills whole in applesauce. Mr. ___ was 
recommended to continue this diet at the time of discharge. 
 
# Systolic Congestive Heart Failure: EF ___ with 
global hypokinesis. His lasix was initially held in the setting 
of hypotension. This was re-started at the time of discharge (80 
mg PO 4x/week, ___, Mo, We, Fr).  

# End Stage Renal Disease on Hemodialysis: Mr. ___ continued 
his normal dialysis schedule of T, Th, ___ during 
hospitalization. He was continued on cinacalcet 30 mg PO 3x/week 
(Mo, We, Fr). He was also continued on B-complex with folic 
acid, nephrocaps, sevelamer carbonate. Also maintained on renal 
diet. During hospitalization he was transfused one unit of 
packed red blood cells for H/H 8.3/26.0. 

# Gout: Continued allopurinol 50 mg PO EVERY OTHER DAY.

# Hypothyroidism: Continued levothyroxine 100 mcg PO daily.

# GERD: Continued pantoprazole 40 mg PO Q12H.   

TRANSITIONAL ISSUES
===================
#Diet Recommendations: Soft (dysphagia) diet, nectar 
prethickened liquids.
#Antibiotic Regimen: Ceftazidime 2 grams after dialysis on 
___, 2 grams after dialysis on ___, 3 grams after 
dialysis on ___. Vancomycin: please obtain vancomycin level 
at dialysis and dose vancomycin after dialysis per protocol. 
#Wound Care: -Recommend multipodus splints for offloading 
bilateral heels. -Santyl/Adaptic/4x4/Kerlix for bilateral heel 
wounds.
#Weekly Labs: CBC with differential, BUN/Cr, Vancomycin Trough, 
ESR, CRP. PLEASE OBTAIN THESE LAB RESULTS DURING DIALYSIS AT 
EVERY ___ DIALYSIS SESSION. Please report results to Dr. 
___: Phone: ___, Fax: ___. 
#Incidentaloma ___: Multiple, bilateral renal cysts. One 
cyst at the inferior pole of the right kidney is hyperdense and 
a nonemergent MRI should be considered for further evaluation. 
#Activity: -Nonweight bearing in left lower extremity.
-Pivot in multipodus splint on right. 
#Given History of sCHF: consider ___ if clinically 
indicated. 
#CODE STATUS: Full Code
#CONTACT: ___ (HCP, wife, ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol 50 mg PO EVERY OTHER DAY 
2. Levothyroxine Sodium 100 mcg PO DAILY 
3. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
4. Warfarin 2 mg PO EVERY OTHER DAY 
5. B complex with C#20-folic acid 1 mg oral daily 
6. Cinacalcet 30 mg PO 3X/WEEK (___) 
7. Nephrocaps 1 CAP PO DAILY 
8. Pantoprazole 40 mg PO Q12H 
9. Finasteride 5 mg PO DAILY 
10. Furosemide 80 mg PO 4X/WEEK (___) 
11. Midodrine 10 mg PO QAM 
12. Propranolol LA 120 mg PO DAILY 
13. Midodrine 7.5 mg PO QPM 
14. Warfarin 3 mg PO EVERY OTHER DAY 

 
Discharge Medications:
1. CefTAZidime 2 g IV POST HD (___) 
IF ON HD, administer dose on the ward after patient returns from 
each hemodialysis session.  
2. CefTAZidime 3 g IV POST HD (SA) 
IF ON HD, administer dose on the ward after patient returns from 
each hemodialysis session.  
3. Vancomycin 1000 mg IV HD PROTOCOL 
4. Allopurinol 50 mg PO EVERY OTHER DAY 
5. Cinacalcet 30 mg PO 3X/WEEK (___) 
6. Levothyroxine Sodium 100 mcg PO DAILY 
7. Midodrine 10 mg PO QAM 
8. Midodrine 7.5 mg PO QPM 
9. Finasteride 5 mg PO DAILY 
10. Nephrocaps 1 CAP PO DAILY 
11. Pantoprazole 40 mg PO Q12H 
12. Propranolol LA 120 mg PO DAILY 
13. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
14. Warfarin 2 mg PO EVERY OTHER DAY 
15. Warfarin 3 mg PO EVERY OTHER DAY 
16. B complex with C#20-folic acid 1 mg oral daily 
17. Furosemide 80 mg PO 4X/WEEK (___) 
18. Outpatient Lab Work
ICD: 730: Osteomyelitis
CBC with differential, BUN/Cr, Vancomycin Trough, ESR, CRP.
Please obtain at dialysis sessions EVERY ___ until ___
Fax: Dr. ___ ___
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Sepsis Secondary to Healthcare Associated Pneumonia
Left Calcaneal Osteomyelitis
Mid to Distal Third Metatarsal Fracture
Atrial Fibrillation on Anticoagulation
Hypotension
Aspiration

SECONDARY DIAGNOSIS
===================
Systolic Congestive Heart Failure (EF ___
End Stage Renal Disease
Gout
Hypothyroidism
Gastroesophageal Reflux Disease

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ after 
experiencing fevers and cough. A chest X-ray indicated you had 
pneumonia. You were treated with antibiotics for the pneumonia 
with improvement of your breathing. 

During your hospitalization you were also noted to have ulcers 
on your heels. You underwent an MRI of the heels which showed 
evidence of an infection in the bone of the left heel. You were 
seen by both Podiatry and Infectious Disease. They recommend 
continuing with your antibiotics which include vancomycin and 
ceftazidime which can be dosed with dialysis. This will occur 
until ___. 

This MRI also showed mid to distal third metatarsal fracture of 
the left foot. Per your primary care physician this was deemed 
to not require further intervention. 

Please ___ with your primary care physician to discuss 
following up lab results associated with the antibiotic regimen. 
These should be drawn every ___ at dialysis. Please have 
your dialysis physician draw CBC with differential, BUN/Cr, 
Vancomycin Trough, ESR, CRP EVERY ___ and have lab results 
called to your primary care physician ___: 
___, Fax: ___. 

Also during hospitalization you underwent an image of your lungs 
which showed evidence of chronic aspiration. To decrease the 
likelihood of aspiration, please continue with a soft 
(dysphagia) diet, nectar prethickened liquids.  

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

You were seen by physical therapy. Activity recommendations "was 
Nonweight bearing in left lower extremity. Pivot in multipodus 
splint on right." 

It was a pleasure taking care of you during your 
hospitalization! We wish you all the best!

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___